US07851463B2
a.7.2 4-(3-Fluoropropyl)-benzenesulfonyl chloride
4.1 g of (3-fluoro-propyl)-benzene (29.67 mmol) were dissolved in 40 ml of dichloromethane. At 0-5° C., 6.91 g of chlorosulfonic acid (59.34 mmol), dissolved in 10 ml of dichloromethane, were added dropwise. The reaction mixture was stirred for 45 min at 0-5° C. and then added to a solution of 6.8 g of phosphorous pentachloride (32.63 mmol) dissolved in 50 ml of dichloromethane. The reaction mixture was stirred for 1 h at 5-10° C. The solvent was evaporated, 150 ml of diethyl ether added, washed once with 150 ml of ice water, and the organic layer dried over magnesium sulfate, filtered, and the solvent evaporated under reduced pressure. The crude product was purified via silica gel chromatography with n-heptane-dichloromethane (11:9) as eluent to give 5.5 g of the title compound.

reactant | (3-fluoro-propyl)-benzene | 29.67 mmol, 4.1 g | FCCCC1=CC=CC=C1 | C9H11F
reactant | chlorosulfonic acid | 59.34 mmol, 6.91 g | ClS(=O)(=O)O | ClHO3S
reactant | phosphorous pentachloride | 32.63 mmol, 6.8 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-(3-Fluoropropyl)-benzenesulfonyl chloride | 5.5 g | FCCCC1=CC=C(C=C1)S(=O)(=O)Cl | C9H10ClFO2S
